US04613607
A mixture of 2.55 g of 1-(2-phenyl-4-quinolyl)-2-(4-piperidyl)-ethanol (racemic), 1.1 g of methyl iodide and 0.6 g of potassium carbonate in 20 ml of dimethylformamide was stirred for 2 hours at the ambient temperature. 20 ml of water and 30 ml of toluene were then added. The organic phase was separated, wahsed with water, dried over magnesium sulfate and evaporated under reduced pressure. 1 g of crude product was obtained which was fixed on a column of silica gel. The elution was effected with a 9/1 chloroform-diethylamine mixture. 0.57 g of 2-(1-methyl-4-piperidyl)-1-(2-phenyl-4-quinolyl)-ethanol (racemic), which melted at 208° C. was thus isolated.

reactant | 1-(2-phenyl-4-quinolyl)-2-(4-piperidyl)-ethanol | 2.55 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(CC1CCNCC1)O | C22H24N2O
reactant | methyl iodide | 1.1 g | CI | CH3I
reactant | potassium carbonate | 0.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-methyl-4-piperidyl)-1-(2-phenyl-4-quinolyl)-ethanol | 0.57 g | CN1CCC(CC1)CC(O)C1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C23H26N2O
